US09120822B2
10% Palladium on activated carbon (1.20 g, 1.13 mmol, 0.94 eq) is added at room temperature to a stirred solution of [trans-4-(1-benzyl-6-methoxy-1,2-dihydro-1,5,9-triaza-phenanthren-3-yl)-cyclohexyl]-carbamic acid tert-butyl ester (600 mg, 1.20 mmol, 1.0 eq) in ethanol (60 mL). The resulting mixture is stirred under hydrogen flow (1 bar) at 60° C. for 3 hours. The catalyst is then removed by filtration and the solution is concentrated to give the crude product that is purified by column chromatography (silica gel, eluent: petroleum ether:ethyl acetate: dichloromethane, 1:3:1, v/v/v) to afford [trans-4-(6-methoxy-1,2,3,4-tetrahydro-1,5,9-triaza-phenanthren-3-yl)-cyclohexyl]-carbamic acid tert-butyl ester as an off-white solid (292 mg, 59% yield).

reactant | [trans-4-(1-benzyl-6-methoxy-1,2-dihydro-1,5,9-triaza-phenanthren-3-yl)-cyclohexyl]-carbamic acid tert-butyl ester | 1.20 mmol, 600 mg, 1.0 eq | C(C)(C)(C)OC(N[C@@H]1CC[C@H](CC1)C=1CN(C=2C=NC3=CC=C(N=C3C2C1)OC)CC1=CC=CC=C1)=O | C30H36N4O3
catalyst | Palladium on activated carbon | 1.13 mmol, 1.20 g, 0.94 eq | [Pd] | Pd
solvent | ethanol | 60 mL | C(C)O | C2H6O
product | [trans-4-(6-methoxy-1,2,3,4-tetrahydro-1,5,9-triaza-phenanthren-3-yl)-cyclohexyl]-carbamic acid tert-butyl ester | 292 mg, 59% yield | C(C)(C)(C)OC(N[C@@H]1CC[C@H](CC1)C1CNC=2C=NC3=CC=C(N=C3C2C1)OC)=O | C23H32N4O3
